US04683234
5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-N-(2,2,2-trichloroethyoxycarbonyl)-3,4-dihydropyrimidine
1.0 g (3.3 millimole) of 5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)dihydropyrimidine was dissolved in 20 ml of chloroform and 2 ml of triethyl amine (14.3 millimole) was added to the solution with stirring and then 0.9 ml (6.54 millimole) of 2,2,2-trichloroethoxychloroformate was added dropwise. After stirring for one hour, the reaction mixture was concentrated under reduced pressure and the residue was purified on silica gel by column chromatography (eluant: methylene chloride) to obtain 0.71 g (45% yield) of title compound.

reactant | 5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)dihydropyrimidine | 3.3 millimole, 1.0 g | C(C)OC(=O)C=1C(=NC(NC1C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C15H17N3O4
reactant | triethyl amine | 14.3 millimole, 2 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Ethoxycarbonyl-2,6-dimethyl-4-(2-nitrophenyl)-3-N-(2,2,2-trichloroethyoxycarbonyl)-3,4-dihydropyrimidine | 0.71 g, 45% yield | C(C)OC(=O)C=1C(N(C(=NC1C)C)C(=O)OCC(Cl)(Cl)Cl)C1=C(C=CC=C1)[N+](=O)[O-] | C18H18Cl3N3O6
